US06632919B1
N-(3-Benzyloxypyridazin-6-yl)-3-aminopropionic Acid (Compound III)
Sodium hydride (22.0 mmol, 0.88 g) was dissolved in benzyl alcohol (10 mL). To the resulting solution was added N-(3-chloropyridazin-6-yl)-3-aminopropionic acid (10.0 mmol, 2.01 g), and the mixture was heated to about 165° C. (oil bath 180° C.) for 3 hours. After cooling to room temperature, water (120 mL) was added, and the aqueous phase was extracted with dichloromethane (3×50 mL). The pH was adjusted to 4.0 with 2M aqueous hydrochloric acid. The light brown precipitate was filtered, washed with water (2×1 mL) and dried over phosphorus pentoxide. The resulting solid was dried to give 1.36 g (47%) of the title compound. The product was pure according to TLC Rf 0.16 (dichloromethane/methanol/acetic acid, 85:10:5).

reactant | Sodium hydride | 22.0 mmol, 0.88 g | [H-].[Na+]
reactant | N-(3-chloropyridazin-6-yl)-3-aminopropionic acid | 10.0 mmol, 2.01 g | ClC=1N=NC(=CC1)NCCC(=O)O | C7H8ClN3O2
reactant | water | 120 mL | O | H2O
reactant | benzyl alcohol | 10 mL | C(C1=CC=CC=C1)O | C7H8O
product | N-(3-Benzyloxypyridazin-6-yl)-3-aminopropionic Acid | 1.36 g, 47% | C(C1=CC=CC=C1)OC=1N=NC(=CC1)NCCC(=O)O | C14H15N3O3
